data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3425,3895,[CH3:10][c-:11]1[nH+:12][c:13]([C:14]#[N:15])[o:16][c:17]1=[O:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:11]2([CH3:10])[NH:12][C:13]1([C:14]#[N:15])[O:16][C:17]2=[O:18],water,298.15,21.23013881747088,-6.878143119842537
1657,1829,[CH3:15][O:16][C:17](=[O:18])[C-:19]([N+:20]#[C:21][C:22]([CH3:23])=[O:24])[C:25]([CH3:26])=[O:27].[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([CH3:9])([F:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([CH3:9])([F:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:19]([C:17]([O:16][CH3:15])=[O:18])([C:25]([CH3:26])=[O:27])[N:20]=[C:21]2[C:22]([CH3:23])=[O:24],water,298.15,12.57479378134641,-57.425273692706384
5154,5852,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[c:19]1[o:20][c:21](=[O:22])[c-:23](-[c:24]2[cH:25][cH:26][cH:27][cH:28][cH:29]2)[o+:30]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:23]1([c:24]3[cH:25][cH:26][cH:27][cH:28][cH:29]3)[C:21](=[O:22])[O:20][C:19]2([C:17]([O:16][CH3:15])=[O:18])[O:30]1,water,298.15,15.614822510870168,-7.423407613161434
4685,5341,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N+:12](=[C:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C-:22]([C:23]#[N:24])[C:25]#[N:26]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:22]([C:23]#[N:24])([C:25]#[N:26])[N:12]([CH3:11])[C:13]2([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,36.19491807607261,-1.2804877112543582
614,674,[CH3:18][N-:19][N+:20]#[C:21][C:22]#[N:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[C:21]([C:22]#[N:23])=[N:20][N:19]2[CH3:18],water,298.15,17.776923560205965,-49.95135135730775
2112,2345,[CH3:17][NH:18][C:19](=[O:20])[C-:21]([N+:22]#[C:23][C:24]([CH3:25])=[O:26])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[CH:12]2[CH2:13][CH2:14][CH:15]1[CH2:16]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([c:6]3[cH:7][cH:8][cH:9][cH:10][cH:11]3)([CH:12]3[CH2:13][CH2:14][CH:15]1[CH2:16]3)[C:21]([C:19]([NH:18][CH3:17])=[O:20])([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[N:22]=[C:23]2[C:24]([CH3:25])=[O:26],water,298.15,16.752754590832463,-23.41526019471876
2132,2366,[CH3:12][NH:13][C:14](=[O:15])[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)=[N+:23]([CH3:24])[C-:25]([CH3:26])[C:27](=[O:28])[NH:29][CH3:30].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Cl:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[C:25]([CH3:26])([C:27](=[O:28])[NH:29][CH3:30])[N:23]([CH3:24])[C:16]2([C:14]([NH:13][CH3:12])=[O:15])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,23.382714247385,-23.08024004805005
772,834,[CH3:13][CH-:14][N+:15]#[C:16][C:17]([CH3:18])=[O:19].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:16]([C:17]([CH3:18])=[O:19])=[N:15][CH:14]2[CH3:13],water,298.15,13.093859982886135,-39.84023075991071
1431,1573,[CH3:16][O:17][C:18](=[O:19])[C:20]([CH3:21])=[N+:22]([CH3:23])[CH-:24][C:25]#[N:26].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([F:8])([F:9])[F:10])[CH:11]2[CH:12]3[CH:13]([CH:14]1[O:15]2)[C:20]([C:18]([O:17][CH3:16])=[O:19])([CH3:21])[N:22]([CH3:23])[CH:24]3[C:25]#[N:26],water,298.15,23.35566683904029,-42.42918240268697
309,336,[CH3:10][O:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[O+:17][N-:18][C:19]#[N:20].[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]([CH3:8])=[O:9]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:15]#[N:16])[O:17][N:18]1[C:19]#[N:20],water,298.15,4.267712884675504,-59.44107977125871
2516,2795,[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]#[C:8][C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][c:23]1[nH+:24][c-:25](-[c:26]2[cH:27][cH:28][cH:29][cH:30][cH:31]2)[c:32](=[O:33])[o:34]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([F:6])[C:7]2=[C:8]([C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:25]1([c:26]3[cH:27][cH:28][cH:29][cH:30][cH:31]3)[NH:24][C:23]2([CH3:22])[O:34][C:32]1=[O:33],water,298.15,21.322686295741168,-4.807340954245502
